Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / tree nuts
 
Attending: ___.
 
Chief Complaint:
right neck and ear pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ ia a ___ year-old male with past medical history of 
hypertension who initially presented to ___ with fullness 
and heaviness in his right face. 

Patient first began to notice right ear pain with fullness and 
heaviness in his right face around 4PM on ___. He also 
began to notice tingling in his right arm which radiated to his 
hand along with some substernal discomfort. Notes that he had 
similar symptoms that were less intense in severity that started 
2 weeks prior. On the way to the hospital, he had nausea and 2 
episodes of emesis. Vitals at ___ notable for tachycardia 
and fever to 101.3F. 

Labs were notable for mildly elevated WBC count, normal lactate, 
and acute-kidney injury (Cr 1.4). He had CTA of head/neck which 
demonstrated soft tissue asymmetry and mild enhancement centered 
along the right palatine tonsil, right
lingual tonsil, and adjacent right epiglottis which may be 
suggestive of tonsillitis. He was started on unasyn and 
transferred to ___ for neurologic evaluation given numbness. 

On admission to ___, patient reported that his symptoms of 
right arm numbness and tingling have completely resolved. He 
denied having any weakness, neck pain upon flexion, headache, 
nausea, slurred speech, changes in vision or hearing. He denied 
any recent trauma or dental/surgical procedures. 
 
Past Medical History:
hypertension 
 
Social History:
___
Family History:
Mother - HTN
Father - HTN
No history of stroke or CAD.

 
Physical Exam:
ADMISSION PHYSICAL EXAM ___:  
=====================================
 VS: Temp 97.5   BP 153/90   HR 18  RR 83  O2sat 98 ra
 GENERAL: Pleasant, lying in bed comfortably  
 HEENT: PERRLA, OP clear with no exudates or lesions, slight
erythema in right posterior OP but difficult to appreciate any
tonsillar exudates or abscess. Slight swelling and tenderness on
right anterior neck. Could not appreciate any cervical
lymphadenopathy. No mastoid tenderness. 
 CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  

 LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi  
 ABD: Normal bowel sounds, soft, nontender, nondistended, no
hepatomegaly, no splenomegaly  
 EXT: Warm, well perfused, no lower extremity edema  
 PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses  
 NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact  
 SKIN: No significant rashes  

DISCHARGE PHYSICAL EXAM ___: 
========================================
VS: Temp: 97.7 (Tm 98.0), BP: 115/83 (115-155/71-86), HR: 71 
(71-89), RR: 18 (___), O2 sat: 98% (95-99), O2 delivery: Ra, 
Wt: 197.09 lb/89.4 kg 
GENERAL: lying in bed, in no acute distress 
HEENT: PERRLA, OP clear with no exudates or lesions, slight
erythema in right posterior OP but difficult to appreciate any
tonsillar exudates or abscess given poor visualization despite
tongue depressor. Slight swelling and tenderness on right
anterior neck. Could not appreciate any cervical 
lymphadenopathy.
No mastoid tenderness. Tympanic membrane clear and intact in R 
ear. Black scarred tympanic membrane in L ear.
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi  
ABD: Normal bowel sounds, soft, nontender, nondistended, no
hepatomegaly, no splenomegaly  
EXT: Warm, well perfused, no lower extremity edema  
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses  
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact  
SKIN: No significant rashes  
 
 
Pertinent Results:
ADMISSION LABS ___:
=============================
___ 09:30AM BLOOD WBC-11.9* RBC-4.24* Hgb-13.6* Hct-40.4 
MCV-95 MCH-32.1* MCHC-33.7 RDW-13.0 RDWSD-45.1 Plt ___
___ 09:30AM BLOOD Neuts-74.6* Lymphs-11.6* Monos-12.1 
Eos-1.0 Baso-0.4 Im ___ AbsNeut-8.83* AbsLymp-1.38 
AbsMono-1.43* AbsEos-0.12 AbsBaso-0.05
___ 05:10AM BLOOD ___ PTT-26.7 ___
___ 09:30AM BLOOD Glucose-106* UreaN-19 Creat-1.0 Na-140 
K-4.4 Cl-102 HCO3-25 AnGap-13
___ 09:30AM BLOOD ALT-30 AST-27 LD(LDH)-194 AlkPhos-67 
TotBili-0.6
___ 09:30AM BLOOD cTropnT-<0.01
___ 09:30AM BLOOD Albumin-4.1 Calcium-8.6 Phos-2.5* Mg-2.2
___ 09:30AM BLOOD %HbA1c-5.5 eAG-111
___ 12:20PM BLOOD Triglyc-96 HDL-61 CHOL/HD-3.3 LDLcalc-119
___ 09:30AM BLOOD TSH-2.6
___ 09:30AM BLOOD CRP-17.7*
___ 09:30AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-8* 
Tricycl-NEG
___ 09:44AM BLOOD Lactate-1.0

DICHARGE LABS ___:
===============================
___ 05:25AM BLOOD WBC-7.9 RBC-4.42* Hgb-14.3 Hct-42.0 
MCV-95 MCH-32.4* MCHC-34.0 RDW-12.5 RDWSD-43.6 Plt ___
___ 05:25AM BLOOD Glucose-106* UreaN-16 Creat-1.0 Na-140 
K-4.4 Cl-101 HCO3-26 AnGap-13
___ 05:25AM BLOOD Calcium-9.2 Phos-3.2 Mg-2.3

IMAGING:
============================
___ Report for CTA head and neck ___:
IMPRESSION:
 1. No evidence for acute intracranial hemorrhage or large
vascular territorial infarction by CT. 2. Grossly patent
intracranial and cervical vasculature without high-grade
stenosis, occlusion, or aneurysm greater than 3 mm. 3. Soft
tissue asymmetry and mild enhancement centered along the right
palatine tonsil, right lingual tonsil, and adjacent right
epiglottis. Given the patient's presenting symptoms of throat
pain, these findings may represent an infectious process such as
tonsillitis. No discrete fluid collection/abscess is identified
at this time. Underlying malignancy cannot be excluded and 
direct
visualization is recommended. 4. Multiple prominent bilateral
cervical lymph nodes are noted measuring up to 1.3 cm in short
axis at the right level 2a station. Although these could be
reactive in the setting of infectious etiology, malignancy is 
not
excluded.

US NECK, SOFT TISSUE ___
IMPRESSION:
Prominent right level 2 lymph node.  No evidence of fluid 
collection or 
abscess within the superficial soft tissues of the neck on the 
right. 
 
 
Brief Hospital Course:
Mr. ___ is a ___ year-old male with HTN presented with right 
anterior neck pain with associated arm numbness and chest 
discomfort with imaging consistent with possible tonsilitis, 
epiglottitis, and lymph node enlargement who was treated with IV 
unasyn and once improved transitioned over to PO antibiotics. 

ACUTE ISSUES:
==================== 
#PERITONSILLAR CELLULITIS. CT and ultrasound without evidence of 
abscess. CT demonstrated soft tissue asymmetry and mild 
enhancement centered along the right palatine tonsil, right 
lingual tonsil, and adjacent right epiglottis which may be 
suggestive of tonsillitis. No evidence of otitis media on 
otoscopic exam. Treated with IV unasyn for 48 hours then 
transitioned to PO antibiotics at the time of discharge. Pain 
controlled with IV toradol, oxycodone and eventually naproxen. 
Symptoms, leukocytosis, and fevers resolved after initiation of 
antibiotics. 

#RUE numbness. Patient seen by neurology consult team. Given his 
lack of focal neurologic deficits and resolution of symptoms 
after initiation of antibiotics, unlikely due to central 
process. Could also have been an anginal equivalent given that 
he had some associated chest pain in the setting of severe pain 
but lipid panel and A1C normal which points away from underlying 
CAD. Chest pain & right arm numbness resolved with initial dose 
of morphine given in ED. Patient no longer endorsed any 
neurological symptoms upon admission to the floor and throughout 
his stay at ___. If this recurs in a highly stressful 
situation or with significant exertion, would consider cardiac 
stress imaging.

CHRONIC ISSUES:
==================
# HTN. Hypertensive upon admission. Continued on home 
amlodipine. Normotensive on discharge.

TRANSITIONAL ISSUES
====================
[ ] Needs head and neck follow up for flexible laryngoscopy to 
ensure resolution of infection and rule out underlying 
malignancy given prominent lymph node. 
[ ] Follow up EBV test results. 
[ ] Antibiotic course: Augmentin 750mg BID through ___

 # CODE: full (presumed) 
 # CONTACT: wife ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Naproxen 500 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 8 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet by mouth 
twice a day Disp #*16 Tablet Refills:*0 
2.  Naproxen 500 mg PO Q12H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
3.  amLODIPine 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis 
===============
Peritonsillar cellulitis 
___

Secondary diagnoses
===============
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY WERE YOU ADMITTED TO THE HOSPITAL? 
-You were sent to ___ for further management of your 
tonsillitis and arm numbness. 

WHAT HAPPENED WHILE YOU WERE HERE? 
-You had slight kidney injury which resolved while you were in 
the hospital.
-You were seen by neurology for your arm numbness. They did not 
think you had a stroke. Since the numbness resolved we did not 
do any further imaging to look for the cause. 
-Your pain was treated with IV pain medications, including 
morpine, oxycodone, and toradol. 
-Your tonsillitis was treated with IV unasyn and you were 
transitioned to PO antibiotics once you were feeling better. 

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL? 
-Follow up with your primary care doctor.
-___ your antibiotics. The last day of treatment will be on 
___. Please make sure you complete the entire course. Be 
sure to take these antibiotics with food as sometimes they can 
cause upset stomach. 
-Follow up with the ENT doctors ___ that they can visualize your 
tonsils with their cameras to ensure that your infection has 
resolved. 
-You should continue to use either ibuprofen OR naproxen for 
your pain. Do not take both since that can lead to irritation of 
your stomach and kidney injury. You should not continue taking 
naproxen for more than 7 days for your pain. If you need to take 
additional medication for pain then you should take Tylenol.   

It was a pleasure taking care of you.
Your ___ Medicine Team
 
Followup Instructions:
___